US07151097B2
Acetic acid 3-[(2-chloroethyl)-(2,2-difluoropropyl)-carbamoyl]-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1-H-pyrazol-4-yl-ester I-6f (3.55 g, 6.69 mmol) was dissolved in 90 ml of methanol with warming in a 40° C. waterbath to give a clear colorless solution. The resulting solution was cooled to 0° C. (still a clear, colorless solution), followed by addition of K2CO3 (1.02 g, 7.31 mmol) in one portion as a solid (reaction mixture goes from colorless to yellow). Reaction stirred for 30 minutes at 0° C., followed by addition of concentrated hydrochloric acid (1.2 ml of 12.1 M, 14.5 mmol). Note: upon neutralization, reaction turns colorless and clear, then product begins to precipitate. The reaction was warmed to room temperature, then 45 ml of water was added, followed by stirring for 2.5 hours. The precipitated solids were collected by filtration and the resulting filtercake was washed with 50 ml of room temperature 2:1, methanol:water. Collected solids were dried at 50° C. and 10 mm for 1 hour to give 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid (2-chloroethyl)-(2,2-difluoropropyl)-amide I-6g (2.86 g, 87%) as a white solid.

reactant | Acetic acid 3-[(2-chloroethyl)-(2,2-difluoropropyl)-carbamoyl]-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1-H-pyrazol-4-yl-ester | 6.69 mmol, 3.55 g | ClCCN(C(=O)C1=NN(C(=C1OC(C)=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)CC(C)(F)F | C23H20Cl3F2N3O3
reactant | K2CO3 | 7.31 mmol, 1.02 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | 14.5 mmol, 12.1 M, 1.2 ml | Cl | ClH
solvent | methanol | 90 ml | CO | CH4O
product | 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid (2-chloroethyl)-(2,2-difluoropropyl)-amide | 2.86 g, 87% | ClCCN(C(=O)C1=NN(C(=C1O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)CC(C)(F)F | C21H18Cl3F2N3O2
